US06232290B1
A mixture of 1-(4-formylphenyl)-1H-pyrazol-4-carboxylic acid methyl ester (5.0 g), 1-phenyl piperazine (4.21 g), acetic acid (3.7 ml), sodium cyanoborohydride (1.55 g), methanol (110 ml), tetrahydrofuran (75 ml) and dichloromethane (20 ml) was stirred for 15 minutes at 0° C. and for 14 hours at ambient temperature. The reaction mixture was poured into saturated NaHCO3 aqueous solution and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and evaporated. The residue was purified by silica gel chromatography (1:1 hexane-ethyl acetate elution) and recrystallized from diisopropyl ether and acetone to give 1-[4-(4-phenylpiperazin-1-yl-methyl)phenyl]-1H-pyrazol-4-carboxylic acid methyl ester (3.90 g).

reactant | 1-(4-formylphenyl)-1H-pyrazol-4-carboxylic acid methyl ester | 5.0 g | COC(=O)C=1C=NN(C1)C1=CC=C(C=C1)C=O | C12H10N2O3
reactant | 1-phenyl piperazine | 4.21 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | sodium cyanoborohydride | 1.55 g | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | methanol | 110 ml | CO | CH4O
solvent | acetic acid | 3.7 ml | C(C)(=O)O | C2H4O2
product | 1-[4-(4-phenylpiperazin-1-yl-methyl)phenyl]-1H-pyrazol-4-carboxylic acid methyl ester | 3.90 g | COC(=O)C=1C=NN(C1)C1=CC=C(C=C1)CN1CCN(CC1)C1=CC=CC=C1 | C22H24N4O2
